US08012976B2
(E)-benzyl 2-(4-((1-oxo-1,3-dihydroisobenzofuran-4-ylimino)methyl)phenyl)pyrrolidine-1-carboxylate
A mixture of benzyl 2-(4-formylphenyl)pyrrolidine-1-carboxylate (0.62 g, 2 mmol), 4-aminoisobenzofuran-1(3H)-one (0.298 g, 2 mmol), MgSO4(2.4 g, 20 mmol) in CH3CN (20 mL) was refluxed at 120° C. for 4 days. After a hot filtration, the filtrate was concentrated in vacuo and the residue was purified by column chromatography (EtOAc:DCM:hexane=1:1:6) to give the title compound (0.35 g, yield 30%) as a white solid. LC-MS (ESI) m/z: 440 (M+1)+.

reactant | benzyl 2-(4-formylphenyl)pyrrolidine-1-carboxylate | 2 mmol, 0.62 g | C(=O)C1=CC=C(C=C1)C1N(CCC1)C(=O)OCC1=CC=CC=C1 | C19H19NO3
reactant | 4-aminoisobenzofuran-1(3H)-one | 2 mmol, 0.298 g | NC1=C2COC(C2=CC=C1)=O | C8H7NO2
reactant | MgSO4 | 20 mmol, 2.4 g | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | (E)-benzyl 2-(4-((1-oxo-1,3-dihydroisobenzofuran-4-ylimino)methyl)phenyl)pyrrolidine-1-carboxylate | 0.35 g, yield 30% | O=C1OCC2=C(C=CC=C12)\N=C\C1=CC=C(C=C1)C1N(CCC1)C(=O)OCC1=CC=CC=C1 | C27H24N2O4
